US05591762
4'-[(2-n-Propyl-4-methyl-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 89 from 4'-[(2-n-propyl-4-methyl-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl and sodium azide in dimethylformamide.

reactant | 4'-[(2-n-propyl-4-methyl-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2C)C=2N=CN(C2)C(C)C | C31H31N5
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-[(2-n-Propyl-4-methyl-6-(1-isopropyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C=2N=CN(C2)C(C)C | C31H32N8
